US08877801B2
To a vial containing (E)-3-(4-((6-hydroxy-2-(4-(trifluoromethyl)phenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (15.9 mg, 0.035 mmol) was added DMF (1.0 mL), followed by methylamine hydrochloride (7.1 mg, 0.105 mmol), HATU (19.9 mg, 0.052 mmol), and DIEA (0.030 mL, 0.174 mmol). The mixture was stirred at room temperature for 12 h after which the reaction was quenched with water and extracted with EtOAc. The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give the crude product which was purified by reverse phase HPLC (neutral condition, 3% 1-propanol in 1-100% CH3CN/H2O) to afford (E)-3-(4-((6-hydroxy-2-(4-(trifluoromethyl)phenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-N-methylacrylamide (13.8 mg, 0.029 mmol, 84% yield). 1H NMR (400 MHz, CD3OD) δ ppm=2.82 (s, 3H), 6.43 (d, J=15.66 Hz, 1H), 6.82 (dd, J=8.59, 2.02 Hz, 1H), 6.89-7.02 (m, 2H), 7.13-7.30 (m, 2H), 7.37-7.52 (m, 3H), 7.61 (d, J=8.08 Hz, 2H), 7.85 (d, J=8.08 Hz, 2H). HRMS (m/z, MH+): 470.1018.

reactant | (E)-3-(4-((6-hydroxy-2-(4-(trifluoromethyl)phenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.035 mmol, 15.9 mg | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)O)C2=CC=C(C=C2)C(F)(F)F)C1 | C24H15F3O4S
reactant | methylamine hydrochloride | 0.105 mmol, 7.1 mg | Cl.CN
reactant | HATU | 0.052 mmol, 19.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.174 mmol, 0.030 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (E)-3-(4-((6-hydroxy-2-(4-(trifluoromethyl)phenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-N-methylacrylamide | 0.029 mmol, 13.8 mg, 84% yield | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)NC)C2=CC=C(C=C2)C(F)(F)F)C1 | C25H18F3NO3S
